US08609656B2
1-(4-Benzimdazol-1-ylphenyl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea (Table 1, Compound No. 10)
The title compound can be synthesized from benzimidazole, 4-fluoronitrobenzene and 4-chloro-3-(trifluoromethyl)phenyl isocyanate by using the same techniques as in Example 1.

reactant | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-(4-Benzimdazol-1-ylphenyl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | N1(C=NC2=C1C=CC=C2)C2=CC=C(C=C2)NC(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F | C21H14ClF3N4O
